* Reusable 65-nm transistor-level logic cells.
* Node order: inputs, output, VDD, VSS.
* The PTM device bodies are tied to the supply rails. This is a predictive,
* circuit-level study and not a foundry-qualified bulk-bias implementation.

.subckt INV A Y VDD VSS
Mp Y A VDD VDD pmos L=65n W=240n
Mn Y A VSS VSS nmos L=65n W=120n
.ends INV

* Twelve-transistor fully complementary static CMOS XOR.
.subckt XOR_CMOS A B Y VDD VSS
Xa A AN VDD VSS INV
Xb B BN VDD VSS INV
* Pull-up: A=0,B=1 or A=1,B=0.
Mp1 Y A npu1 VDD pmos L=65n W=240n
Mp2 npu1 BN VDD VDD pmos L=65n W=240n
Mp3 Y AN npu2 VDD pmos L=65n W=240n
Mp4 npu2 B VDD VDD pmos L=65n W=240n
* Pull-down: A=B.
Mn1 Y A npd1 VSS nmos L=65n W=120n
Mn2 npd1 B VSS VSS nmos L=65n W=120n
Mn3 Y AN npd2 VSS nmos L=65n W=120n
Mn4 npd2 BN VSS VSS nmos L=65n W=120n
.ends XOR_CMOS

* Four-transistor original GDI XOR. Output swing degradation is expected.
.subckt XOR_GDI A B Y VDD VSS
Xb B BN VDD VSS INV
Mp Y A B VDD pmos L=65n W=240n
Mn Y A BN VSS nmos L=65n W=120n
.ends XOR_GDI

* Six-transistor swing-restored GDI XOR reconstructed from Fig. 1(a) of the
* baseline paper. The two restoration devices pass A when B=0, complementing
* the weak transitions of the four-transistor GDI core.
.subckt XOR_FSGDI A B Y VDD VSS
Xb B BN VDD VSS INV
Mp Y A B VDD pmos L=65n W=240n
Mn Y A BN VSS nmos L=65n W=120n
Mrl Y BN A VSS nmos L=65n W=120n
Mrh Y B A VDD pmos L=65n W=240n
.ends XOR_FSGDI

* Hybrid-A: local CMOS restoration after every FS-GDI XOR cell.
.subckt XOR_HYBRID_A A B Y VDD VSS
Xcore A B RAW VDD VSS XOR_FSGDI
Xi1 RAW NBUF VDD VSS INV
Xi2 NBUF Y VDD VSS INV
.ends XOR_HYBRID_A

* A generic non-inverting CMOS restoration buffer used by Hybrid-B only at
* externally observed parity outputs.
.subckt RESTORE_BUFFER A Y VDD VSS
Xi1 A NBUF VDD VSS INV
Xi2 NBUF Y VDD VSS INV
.ends RESTORE_BUFFER

